US04643761
2-Chloro-6-phenylbenzenesulfonamide
A solution of 2-chloro-N-(1,1-dimethylethyl)-6-phenylbenzenesulfonamide (23 g, 0.071 mol) in a mixture of 120 ml trifluoroacetic acid (TFA) plus 4 ml water was heated to reflux for 2 hours. The TFA was evaporated in vacuo and the residue partitioned between methylene chloride and water. The organic layer was dried (MgSO4), evaporated, and the residue crystallized from ether/methylene chloride to afford 15.9 g of crystalline solid in two crops, m.p. 185°-87°. NMR (90 MHZ, CDCl3) 6.45 (s, br, NH2). 7.3-7.7 (m, 8H) ppm.

reactant | 2-chloro-N-(1,1-dimethylethyl)-6-phenylbenzenesulfonamide | 0.071 mol, 23 g | ClC1=C(C(=CC=C1)C1=CC=CC=C1)S(=O)(=O)NC(C)(C)C | C16H18ClNO2S
reactant | water | 4 ml | O | H2O
solvent | trifluoroacetic acid | 120 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Chloro-6-phenylbenzenesulfonamide | 15.9 g | ClC1=C(C(=CC=C1)C1=CC=CC=C1)S(=O)(=O)N | C12H10ClNO2S
